US09402841B2
Step B: (S)-tert-butyl 3-((3-methyl-6-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)pyridin-2-yl)oxy)pyrrolidine-1-carboxylate
To the reaction mixture containing (S)-tert-butyl 3-((6-cyano-3-methylpyridin-2-yl)oxy)pyrrolidine-1-carboxylate (1.095 g) was added NMP (1.5 mL) and ethyl hydrazinecarboxylate (0.752 g, 7.22 mmol). The mixture was heated at 175° C. for 1.5 days and was subsequently cooled and diluted with EtOAc. The organic phase was washed with aqueous NH4Cl, dried, and concentrated. The crude product was purified by preparative HPLC eluting with a gradient of 35-60% ACN in water (acid mode) to give the title compound (0.042 g, 4.4% over 2 steps).

reactant | (S)-tert-butyl 3-((6-cyano-3-methylpyridin-2-yl)oxy)pyrrolidine-1-carboxylate | 1.095 g | C(#N)C1=CC=C(C(=N1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C | C16H21N3O3
reactant | NMP | 1.5 mL | CN1CCCC1=O | C5H9NO
reactant | ethyl hydrazinecarboxylate | 7.22 mmol, 0.752 g | N(N)C(=O)OCC | C3H8N2O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl 3-((3-methyl-6-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)pyridin-2-yl)oxy)pyrrolidine-1-carboxylate | 0.042 g, 4.4% | CC=1C(=NC(=CC1)C1=NNC(N1)=O)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C17H23N5O4
